US06420381B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5(1-pyrrolidinylmethyl)phenyl]urea:
To a solution of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-(bromomethyl)phenyl]urea (330 mg, 0.56 mmol) in THF (tetrahydrofuran, 5 ml) is added pyrrolidine (362 mg, 5.09 mmol), and the mixture is stirred at room temperature for 3 hours. The mixture is poured into water, and the mixture is extracted with ethyl acetate. The extract is washed with water and a saturated brine, and dried over anhydrous magnesium sulfate. The solvent is evaporated under reduced pressure, and the resulting residue is purified by silica gel column chromatography (5-10% methanol/chloroform) to give the title compound (234 mg, 0.42 mmol) as colorless oil.

reactant | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-(bromomethyl)phenyl]urea | 0.56 mmol, 330 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC(=C1)CBr)C(C)(C)C)=O | C31H35BrN4O3
reactant | pyrrolidine | 5.09 mmol, 362 mg | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5(1-pyrrolidinylmethyl)phenyl]urea | 0.42 mmol, 234 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC(=C1)CN1CCCC1)C(C)(C)C)=O | C35H43N5O3
